### PR TITLE
[Merged by Bors] - chore(Data/Int/Fib): add `fib_neg`

### PR DESCRIPTION
**Pull request by themathqueen**
Forgot to add `Int.fib_neg`:

```lean
theorem fib_neg (n : ℤ) : fib (-n) = if Even n then -fib n else fib n := by
```

Also changes `Int.fib_gcd` to `Int.gcd_fib` and gets rid of the unnecessary coercions.

---

- [x] depends on: #32133

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/Fib.lean [hunk 1]
```diff
@@ -54,11 +54,13 @@ theorem fib_neg_natCast (n : ℕ) : fib (-n) = (-1) ^ (n + 1) * n.fib := by
   · simp [fib, hn, pow_add]
   · simp [fib_of_odd, hn]
 
+theorem fib_neg (n : ℤ) : fib (-n) = if Even n then - fib n else fib n := by
+  obtain ⟨n, _⟩ := n.eq_nat_or_neg
+  aesop (add safe (by rw [fib_neg_natCast]))
+
 theorem coe_fib_neg (n : ℤ) : (fib (-n) : ℚ) = (-1) ^ (n + 1) * fib n := by
```
Comment (themathqueen) [inline Mathlib/Data/Int/Fib.lean:61]: delete this and/or privatize `fib_neg_natCast`?

File: Mathlib/Data/Int/Fib.lean [hunk 2]
```diff
@@ -149,24 +150,19 @@ theorem fib_two_mul_add_two (n : ℤ) :
...
-        reduceNeg, Nat.cast_inj]
-      rcases neg_one_pow_eq_or ℤ (m + 1) with (h | h) <;> simp [h]
-    · simp only [gcd_neg, neg_gcd, Int.gcd_natCast_natCast, fib_natCast, Nat.fib_gcd,
-        fib_neg_natCast, reduceNeg, Nat.cast_inj]
-      rcases neg_one_pow_eq_or ℤ (n + 1) with (h | h) <;>
-        rcases neg_one_pow_eq_or ℤ (m + 1) with (h' | h') <;> simp [h, h']
+    · simp only [fib_neg, neg_gcd, Int.gcd_natCast_natCast, Nat.fib_gcd]
+      split_ifs <;> simp
+    · simp only [fib_neg, gcd_neg, neg_gcd, Int.gcd_natCast_natCast, Nat.fib_gcd]
+      split_ifs <;> simp
```
Comment (themathqueen) [inline Mathlib/Data/Int/Fib.lean]: Or we could have something like (in `Mathlib/Logic/Basic`):
```lean
theorem _root_.apply_ite_left {α β γ : Sort*} (f : α → β → γ) (P : Prop) [Decidable P]
    (x y : α) (z : β) : f (if P then x else y) z = if P then f x z else f y z := by grind
```
and then golf this
```suggestion
      <;> simp [fib_neg, Nat.fib_gcd, apply_ite, apply_ite_left]
```

File: Mathlib/Logic/Basic.lean [hunk 3]
```diff
@@ -912,6 +912,9 @@ either branch to `a`. -/
 theorem ite_apply (f g : ∀ a, σ a) (a : α) : (ite P f g) a = ite P (f a) (g a) :=
   dite_apply P (fun _ ↦ f) (fun _ ↦ g) a
 
+theorem apply_ite_left {α β γ : Sort*} (f : α → β → γ) (P : Prop) [Decidable P]
```
Comment (themathqueen) [inline Mathlib/Logic/Basic.lean:915]: or `apply_ite_apply`? or `apply_ite₁`? or?

**Comment by adomani** [comment]
I just re-ran the PR summary script: I am not sure what it is supposed to do, but hopefully will pick up the new script on master that should be aware of `public` imports.

EDIT: it picked up the new script, but the script probably needs some fixing up.

File: Mathlib/Algebra/Ring/Parity.lean [hunk 4]
```diff
@@ -363,6 +353,20 @@ lemma neg_one_pow_eq_neg_one_iff_odd (h : (-1 : R) ≠ 1) :
 
 end DistribNeg
 
+section DivisionMonoid
+variable [DivisionMonoid α] [HasDistribNeg α] {a : α} {n : ℤ}
```
Comment (ocfnash) [inline Mathlib/Algebra/Ring/Parity.lean]:
```suggestion
section DivisionMonoid

variable [DivisionMonoid α] [HasDistribNeg α] {a : α} {n : ℤ}
```

File: Mathlib/Data/Int/Fib.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Data/Int/Fib.lean:61]: Let's keep both.

File: Mathlib/Logic/Basic.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Logic/Basic.lean:915]: I like the current proposal best.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
